US08420690B2
c) N-[1-(aminomethyl)-2-methyl-2-phenylpropyl]-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide
To a solution of N-{1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-methyl-2-phenylpropyl}-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide (96 mg, 0.20 mmol) in MeOH/THF (20 mL, 3:1) at RT was added hydrazine (45 μL, 1.43 mmol). After stirring for 18 h at RT, the reaction mixture was adsorbed onto silica and purified via column chromatography (silica, 3% MeOH in DCM (1% NH4OH)) yielding the title compound.

reactant | N-{1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-methyl-2-phenylpropyl}-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide | 0.20 mmol, 96 mg | O=C1N(C(C2=CC=CC=C12)=O)CC(C(C)(C1=CC=CC=C1)C)NC(=O)C1=CSC(=C1)C1=CC=NN1C | C28H26N4O3S
reactant | hydrazine | 1.43 mmol, 45 μL | NN | H4N2
solvent | MeOH THF | 20 mL | CO.C1CCOC1
product | N-[1-(aminomethyl)-2-methyl-2-phenylpropyl]-5-(1-methyl-1H-pyrazol-5-yl)-3-thiophenecarboxamide | NCC(C(C)(C1=CC=CC=C1)C)NC(=O)C1=CSC(=C1)C1=CC=NN1C | C20H24N4OS
